US07981874B2
2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]ethyl ethyl methylphosphonate.
1,1-dimethylethyl [2-({[4-(hydroxymethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate (140 mg, 0.50 mmol), BOP (440 mg, 0.99 mmol), 4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoic acid (90 mg, 0.33 mmol), and DIPEA (0.17 mL, 0.99 mmol) were stirred in DMF (1.1 mL) at 60° C. for 72 hours. The mixture was then diluted with saturated NaHCO3 solution and extracted with EtOAc. The organic layers were then washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification of the crude reaction mixture by MPLC (0-10% MeOH/DCM) resulted in the title compound as a yellow foam. MS cal'd 445 (MH+-Boc), exp 445 (MH+-Boc).

reactant | 1,1-dimethylethyl [2-({[4-(hydroxymethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate | 0.50 mmol, 140 mg | OCC1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C23H24N2O4S
reactant | BOP | 0.99 mmol, 440 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoic acid | 0.33 mmol, 90 mg | C(C)OP(=O)(C)OCCC1=CC=C(C(=O)O)C=C1 | C12H17O5P
reactant | DIPEA | 0.99 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]ethyl ethyl methylphosphonate | CP(OCCC1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(=O)OC(C)(C)C)(OCC)=O | C27H33N2O6PS
